US04626545
A solution of N-formyl, N-(1-carbethoxy-3-phenylpropyl)(L)-alanyl(S)-2-(2-acetoxy-1-oxoethyl)-pyrrolidine (460 mg; 1 mmol) in 5 ml of 5% ethanolic hydrochloric acid (5.5 ml of 38% aqueous HCl in 60 ml of ethanol) can be kept at 25° for 2 days. It can then be concentrated under reduced pressure and the residue triturated with ether to give N-(1-carbethoxy-3-phenylpropyl)(L)-alanyl (S)-2-(2-hydroxy-1-oxoethyl)-pyrrolidine hydrochloride.

reactant | N-(1-carbethoxy-3-phenylpropyl)(L)-alanyl(S)-2-(2-acetoxy-1-oxoethyl)-pyrrolidine | 1 mmol, 460 mg | C(=O)(OCC)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@@H](CCC1)C(COC(C)=O)=O | C23H32N2O6
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | N-(1-carbethoxy-3-phenylpropyl)(L)-alanyl (S)-2-(2-hydroxy-1-oxoethyl)-pyrrolidine hydrochloride | Cl.C(=O)(OCC)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@@H](CCC1)C(CO)=O | InChI=1S/C21H30N2O5.ClH/c1-3-28-21(27)17(12-11-16-8-5-4-6-9-16)22-15(2)20(26)23-13-7-10-18(23)19(25)14-24;/h4-6,8-9,15,17-18,22,24H,3,7,10-14H2,1-2H3;1H/t15-,17?,18-;/m0./s1
